US04165231
Preparation of 3-(methoxymethyl)-p-toluidine.
Methyl 2-methyl-5-nitrobenzyl ether (11.5 g) was dissolved in 125 ml of absolute ethanol. To this was added a solution of sodium sulfide monohydrate (48.3 g) and sodium bicarbonate (16.7 g) in 75 ml of water. The resulting mixture was refluxed until tlc indicated all the starting material was gone. The mixture was then concentrated in vacuo to an oily solid. Methylene chloride was added and the mixture filtered. The methylene chloride layer was separated and dried. After removal of the drying agent, the solvent was concentrated in vacuo to give 9.3 g of a mobile orange liquid.

reactant | Methyl 2-methyl-5-nitrobenzyl ether | 11.5 g | CC1=C(COC)C=C(C=C1)[N+](=O)[O-] | C9H11NO3
reactant | sodium sulfide monohydrate | 48.3 g | O.[S-2].[Na+].[Na+]
reactant | sodium bicarbonate | 16.7 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
product | 3-(methoxymethyl)-p-toluidine | 9.3 g | COCC=1C=C(N)C=CC1C | C9H13NO
